US03953476
N-tert-butyl-3-(2-furfurylamino-4-chloro-5-methylsulfonylbenzoyloxy)crotonamide (4.69 g.; 0.01 mole) and unsymmetrical-dimethylhydrazine (1.20 g.; 0.02 mole) are added to acetonitrile. The reaction mixture is refluxed with stirring for 24 hours. Additional unsymmetrical-dimethylhyrazine (1.20 g.; 0.02 mole) is added, and refluxing is continued for an additional 24 hours. The acetonitrile is removed under reduced pressure, and the dark residue is triturated with isopropyl alcohol. The tan colored solid which crystallizes is collected and dried, yield 2.4 g. (64%), m.p. 90° -104° C. Several recrystallizations from butyl chloride followed by a recrystallization from benzene yields 2-furfurylamino-4-chloro-5-methylsulfonylbenzoic acid 2,2-dimethylhydrazide in the form of a white solid, m.p. 169.5°-171° C.

reactant | N-tert-butyl-3-(2-furfurylamino-4-chloro-5-methylsulfonylbenzoyloxy)crotonamide | 0.01 mole, 4.69 g | C(C)(C)(C)NC(\C=C(\C)/OC(C1=C(C=C(C(=C1)S(=O)(=O)C)Cl)NCC1=CC=CO1)=O)=O | C21H25ClN2O6S
reactant | unsymmetrical-dimethylhydrazine | 0.02 mole, 1.20 g | CN(C)N | C2H8N2
reactant | unsymmetrical-dimethylhyrazine | 0.02 mole, 1.20 g | CN(C)N | C2H8N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-furfurylamino-4-chloro-5-methylsulfonylbenzoic acid 2,2-dimethylhydrazide | CN(NC(C1=C(C=C(C(=C1)S(=O)(=O)C)Cl)NCC1=CC=CO1)=O)C | C15H18ClN3O4S
